US08981085B2
A sealed tube was charged with N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,2-difluorocyclopropanecarboxamide (150 mg, 0.449 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (270 mg, 1.35 mmol), N-ethyl-N-isopropylpropan-2-amine (235 μL, 1.35 mmol) and n-BuOH (3 mL). Then N2 was bubbled through the mixture for 5 minutes. The tube was sealed under N2 and stirred at 120° C. for 5 hours and then at 130° C. for 48 hours. The mixture was concentrated in vacuo, and the residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 15-85% CH3CN/water, 23 CV) to yield tert-butyl (3R)-1-(5-bromo-3-(2,2-difluorocyclopropanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (81 mg, 35% yield) as a solid. LCMS (APCI+) m/z 514.1, 516.1 (M+H)+.

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,2-difluorocyclopropanecarboxamide | 0.449 mmol, 150 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2C(C2)(F)F)F | C11H7BrF3N3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.35 mmol, 270 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.35 mmol, 235 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | n-BuOH | 3 mL | CCCCO | C4H10O
solvent | CH3CN water | CC#N.O
product | tert-butyl (3R)-1-(5-bromo-3-(2,2-difluorocyclopropanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 81 mg, 35% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2C(C2)(F)F)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H26BrF2N5O3
